US04866076
To a mixture of 7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.8 g, 5 mmol) and triethylamine (0.51 g, 5 mmol) in dry acetonitrile (25 ml), heated to 70° C., was added half of a solution of methyl-2-(bromomethyl)benzoate (1.15 g, 5 mmol) and triethylamine (0.51 g, 5 mmol) in acetonitrile (25 ml) over 0.5 hr. After 1.5 hr, the remainder of the solution was added slowly over 2 hr and stirred for a further 1 hr. After cooling and filtration the concentrated filtrate was chromatographed (silica gel, ether) to give a methyl-2-[[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]methyl]benzoate (0.66 g, 28%) as an oil. To this, in methanol (30 ml), was added 15% sodium hydroxide solution (8 ml) and the mixture was stirred for 3 hr. The solvent was removed in vacuo, water was added and the pH was adjusted to 6 with 2N HCl to give, after recrystallisation from IPA, 2-[[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]methyl]benzoic acid, H2O, 0.6HCl, 0.48(CH3)2CHOH.

reactant | 7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride | 5 mmol, 1.8 g | Cl.ClC=1C=C(C=CC1)NS(=O)(=O)C1=CC=C2CCNCC2=C1
reactant | triethylamine | 5 mmol, 0.51 g | C(C)N(CC)CC | C6H15N
reactant | methyl-2-(bromomethyl)benzoate | 5 mmol, 1.15 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | triethylamine | 5 mmol, 0.51 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | methyl-2-[[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]methyl]benzoate | 0.66 g, 28% | COC(C1=C(C=CC=C1)CN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O)=O | C24H23ClN2O4S
